US08497264B2
A solution of tert-butyl 2-(7-bromo-3-chloro-5-(1,1-dimethylethylsulfinamido)-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)acetate (7.5 g, 13.69 mmol) in dry THF (25 mL) was cooled to −78° C. and diisobutylaluminum hydride (54.8 mL, 54.8 mmol) was added drop wise. The mixture was warmed to 0° C. and kept at this temperature for 1 h. The reaction mixture was quenched with a aqueous, saturated solution of Rochelle's salt and vigorously stirred for 15 h. The organic layer was separated and the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine and dried over Na2SO4. The solution was concentrated under reduced pressure. The residue was purified by chromatography (0-30% EtOAc/hexanes) to afford N-(7-bromo-3-chloro-1-fluoro-5-(2-hydroxyethyl)-5H-chromeno[2,3-c]pyridin-5-yl)-2-methylpropane-2-sulfinamide (5.8 g, 89% yield) as a light yellow solid.

reactant | tert-butyl 2-(7-bromo-3-chloro-5-(1,1-dimethylethylsulfinamido)-1-fluoro-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 13.69 mmol, 7.5 g | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)(NS(=O)C(C)(C)C)CC(=O)OC(C)(C)C | C22H25BrClFN2O4S
reactant | diisobutylaluminum hydride | 54.8 mmol, 54.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(7-bromo-3-chloro-1-fluoro-5-(2-hydroxyethyl)-5H-chromeno[2,3-c]pyridin-5-yl)-2-methylpropane-2-sulfinamide | 5.8 g, 89% yield | BrC=1C=C2C(C3=C(C(=NC(=C3)Cl)F)OC2=CC1)(CCO)NS(=O)C(C)(C)C | C18H19BrClFN2O3S
